US04737514
To 5.0 g (0.017 mol) of 3-cyano-7-methoxythioxanthen-9-one 10,10-dioxide was added ethylenediamine, 10.8 g (0.18 mol), and sodium methoxide, (0.098 g, 0.002 mol), in methanol, 70 ml, and the mixture was refluxed for 70.5 hr. The mixture was then poured into ice water, 400 ml, and the precipitate was filtered and washed with water then was recrystallized from ethanol, DMSO and H2O to provide 1.1 g of 6-(2-imidazolin-2-yl)-2-methoxythioxanthen-9-one-10,10-dioxide with m.p. 220°-224° C.; TLC on silica gel (ethanol), Rf =0.44.

reactant | 3-cyano-7-methoxythioxanthen-9-one 10,10-dioxide | 0.017 mol, 5.0 g | C(#N)C=1C=CC=2C(C3=CC(=CC=C3S(C2C1)(=O)=O)OC)=O | C15H9NO4S
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | sodium methoxide | 0.002 mol, 0.098 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 6-(2-imidazolin-2-yl)-2-methoxythioxanthen-9-one-10,10-dioxide | 1.1 g | N1C(=NCC1)C=1C=C2S(C=3C=CC(=CC3C(C2=CC1)=O)OC)(=O)=O | C17H14N2O4S
